US06306880B1
Trans-5-[(4-chlorobenzyl)sulfinyl]-2-[(E)-1-methyl-2-[4- (trifluoromethyl)phenyl]vinyl]-1,3-dioxane
In 10 ml of methylene chloride were dissolved 382 mg (0.89 mmol) of trans-5-[(4-chlorobenzyl)thio]-2-[(E)-1-methyl-2-[4-(trifluoromethyl)phenyl]vinyl]-1,3-dioxane, and 188 mg (0.92 mmol) of m-chloroperbenzoic acid (purity: 85%) were added to the solution, followed by stirring of the resulting mixture for 15 minutes. The reaction mixture was washed with an aqueous sodium hydrogencarbonate solution and the solid obtained by evaporation of the solvent was washed with a mixed solvent of ethyl acetate-hexane to obtain 328 mg (yield: 83%) having a melting point of 192 to 194° C.

reactant | trans-5-[(4-chlorobenzyl)thio]-2-[(E)-1-methyl-2-[4-(trifluoromethyl)phenyl]vinyl]-1,3-dioxane | 0.89 mmol, 382 mg | ClC1=CC=C(CS[C@H]2CO[C@@H](OC2)\C(=C\C2=CC=C(C=C2)C(F)(F)F)\C)C=C1 | C21H20ClF3O2S
reactant | m-chloroperbenzoic acid | 0.92 mmol, 188 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | Trans-5-[(4-chlorobenzyl)sulfinyl]-2-[(E)-1-methyl-2-[4- (trifluoromethyl)phenyl]vinyl]-1,3-dioxane | yield: 83% | ClC1=CC=C(CS(=O)[C@H]2CO[C@@H](OC2)\C(=C\C2=CC=C(C=C2)C(F)(F)F)\C)C=C1 | C21H20ClF3O3S
